US08372840B2
i) Benzyl-(3-bromo-phenyl)-amine
A solution of 3-bromo aniline (5 g, 29 mmol), benzaldehyde (3.24 ml, 32 mmol) and acetic acid (2.49 ml, 44 mmol) in dry tetrahydrofuran (50 ml) was stirred at room temperature for 3 hrs. Sodium borohydride (2.755 g, 73 mmol) was added and the reaction stirred at room temperature overnight. The reaction mixture was quenched with water (100 ml) and extracted with dichloromethane (3×100 ml). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo. HPLC retention time 7.7 min. Mass spectrum (ES+) m/z 263 (M+H)

reactant | 3-bromo aniline | 29 mmol, 5 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | benzaldehyde | 32 mmol, 3.24 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 44 mmol, 2.49 ml | C(C)(=O)O | C2H4O2
reactant | Sodium borohydride | 73 mmol, 2.755 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Benzyl-(3-bromo-phenyl)-amine | C(C1=CC=CC=C1)NC1=CC(=CC=C1)Br | C13H12BrN
